US08735384B2
A glass microwave reaction vessel was charged with 6-bromo-2-chloro-3-(tetrahydro-2H-pyran-4-yl)quinoline (1.46 g, 4.47 mmol) and (4-methoxyphenyl)methanamine (5.80 mL, 44.7 mmol) in N-methyl-2-pyrrolidinone (5.80 mL). The reaction mixture was stirred and heated in a microwave reactor at 130° C. for 180 min. The reaction mixture was poured into water and extracted with EtOAc and DCM. The combined organic extracts were washed with saturated ammonium chloride, water, saturated sodium chloride, and dried over sodium sulfate. The solution was filtered and concentrated in vacuo to give the crude material as a yellow oil. The crude material was purified by silica gel chromatography by eluting with 1:4 to 1:1 EtOAc in hexane, to provide 6-bromo-N-(4-methoxybenzyl)-3-(tetrahydro-2H-pyran-4-yl)quinolin-2-amine as yellow solid.

reactant | 6-bromo-2-chloro-3-(tetrahydro-2H-pyran-4-yl)quinoline | 4.47 mmol, 1.46 g | BrC=1C=C2C=C(C(=NC2=CC1)Cl)C1CCOCC1 | C14H13BrClNO
reactant | (4-methoxyphenyl)methanamine | 44.7 mmol, 5.80 mL | COC1=CC=C(C=C1)CN | C8H11NO
reactant | water | O | H2O
solvent | N-methyl-2-pyrrolidinone | 5.80 mL | CN1C(CCC1)=O | C5H9NO
product | 6-bromo-N-(4-methoxybenzyl)-3-(tetrahydro-2H-pyran-4-yl)quinolin-2-amine | BrC=1C=C2C=C(C(=NC2=CC1)NCC1=CC=C(C=C1)OC)C1CCOCC1 | C22H23BrN2O2
